US07884210B2
2-{2-[3-Cyclohexyl-3-(3-methyl-butyl)-ureido]-thiazol-5-ylsulfanyl}-2-methyl-propionic acid
Prepared as described for the synthesis of [2-(3-cyclohexyl-3-phenethyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid, from cyclohexanone, 3-methylbutylamine and 2-(2-amino-thiazol-5-ylsulfanyl)-2-methyl-propionic acid ethyl ester.

reactant | [2-(3-cyclohexyl-3-phenethyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)SCC(=O)O)=O)CCC1=CC=CC=C1 | C20H25N3O3S2
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | 3-methylbutylamine | CC(CCN)C | C5H13N
reactant | 2-(2-amino-thiazol-5-ylsulfanyl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)SC1=CN=C(S1)N)=O | C9H14N2O2S2
product | 2-{2-[3-Cyclohexyl-3-(3-methyl-butyl)-ureido]-thiazol-5-ylsulfanyl}-2-methyl-propionic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)SC(C(=O)O)(C)C)=O)CCC(C)C | C19H31N3O3S2
